* Copyright © Linear Technology Corp. 2011.  All rights reserved.
*
.subckt LT3015 1 2 3 4 5
Q1 N010 N008 2 0 PN temp=27
Q2 N008 N006 3 0 NA temp=27
Q3 N006 N007 N013 0 NP temp=27
C1 N006 N007 100p Rser=20K
Q4 N007 N007 N014 0 NP 10 temp=27
R2 N014 3 96
R3 N013 3 175
C2 4 N007 195p
Q5 4 5 N012 0 FB temp=27
R6 N012 N014 500
G2 2 N007 N002 3 150µ
G1 2 N006 N002 3 150µ
R1 2 N008 50K
R8 N010 4 .1
A2 N009 0 N006 N006 N006 N006 3 N006 VARISTOR
D3 N009 0 F
G3 0 N009 4 N010 10m
G4 0 N009 2 4 table(-18 -1.55m -10 -4.25m)
Q7 N007 N008 N010 0 P 13m temp=27
C4 2 N006 300p Rser=20Meg
D1 4 2 X
C5 5 3 1p
C6 4 3 10p
C7 2 3 10p
G5 N009 0 N002 3 table(-1 0 0 -4.5m)
C8 2 N007 4n Rser=12Meg Rpar=35Meg
D2 1 3 S2
D4 1 3 S1
D5 3 1 S3
A3 1 3 3 3 3 3 N001 3 SCHMITT Vt=.96 Vh=.24
A4 3 N001 3 N004 3 N002 3 3 OR tau=10u ref=.5 Vhigh=0 Vlow=-1
A1 1 3 3 3 3 N004 3 3 SCHMITT Vt=-.96 Vh=.24
R5 5 2 .75G
G6 3 5 N002 3 60n
.model P NPN(BF=100)
.model NP PNP(Cje=10p Cjc=10p BF=150)
.model NA PNP(BF=6K Cje=5p Cjc=5p Re=50)
.model PN NPN(BF=300 Cje=400p Cjc=400p Tf=5n)
.model FB PNP(Cje=10p Cjc=10p BF=30K)
.model F D(Ron=1m Roff=570 epsilon=.1)
.model X D(Ron=10 Vfwd=30)
.model S1 D(Ron=250K epsilon=.5 Ilimit=10u)
.model S2 D(Ron=3Meg epsilon=.5)
.model S3 D(Ron=3Meg epsilon=2 Vfwd=3)
.ends LT3015
