* Copyright © Linear Technology Corp. 2004.  All rights reserved.
*
.subckt LTC1798 1 2 3 4
S1 4 2 N001 4 T
S2 1 4 4 N001 B
A1 3 1 0 0 0 0 N001 0 OTA G={Avol/Rout} Ref=2.385 Iout={slew*Cout} Cout={Cout} en={en} enk={enk} in={in} ink={ink} Vhigh=1e308 Vlow=-1e308
C3 4 1 1p
C4 2 4 1p
R2 N001 1 {2*Rout} noiseless
R1 2 N001 {2*Rout} noiseless
G1 0 N001 1 N001 table(0 0 10 {2*slew*Cout})
G2 N001 0 N001 2 table(0 0 10 {2*slew*Cout})
R3 3 1 238.5Meg
.param Rout=100Meg
.param Cout={Avol/GBW/2/pi/Rout}
.model T SW(Ron=200 Roff=2G Vt=0 Vh=-.1 Vser={Rail} ilimit=15m noiseless)
.param Avol=1Meg GBW=100K Slew=100K rail=0
.param en=0 enk=0 in=0 ink=0
.model B SW(Ron=200 Roff=2G Vt=0 Vh=-.1 Vser={Rail} ilimit=3m noiseless)
.ends LTC1798
